US08445118B2
(24) Silicon(IV) Catecholate (Molecular Weight: 244)
A solution of catechol (22.0 g, 0.20 mmol) and toluene (220 mL) was dehydrated by distilling 20 mL of the solution. Thereafter, 20.8 g (0.10 mmol) of tetraethoxysilane (TEOS) was added to the solution while stirring. The mixed solution was refluxed for 1 hour, and then, while the distillation temperature was 100° C. or higher, distilled at a liquid flow rate of 15 mL/h until the amount of the solution became 100 mL. As a result, catechol-silicon complex toluene was obtained. To 2 mL of catechol-silicon complex toluene, 2 mL of acetylacetone was added to produce a coating liquid.

reactant | catechol silicon | 2 mL | C=1(O)C(O)=CC=CC1.[Si]
reactant | acetylacetone | 2 mL | C(C)(=O)CC(C)=O | C5H8O2
product | Silicon(IV) Catecholate | C=1([O-])C([O-])=CC=CC1.[Si+4].C=1([O-])C([O-])=CC=CC1 | InChI=1S/2C6H6O2.Si/c2*7-5-3-1-2-4-6(5)8;/h2*1-4,7-8H;/q;;+4/p-4
